Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
MVA
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo M presents following slow-speed car accident with
amnesia to the event. Per report, patient was found driving the
wrong way on a one-way road, unrestrained, and with airbags
already deployed, likely from preceding collision after being
found. Unclear LOC. 

Patient is unable to recall these events and is very confused.
His daughter, who is present at bedside, confirms that his
current mental status is his baseline and that he has 
Alzheimer's
dementia. Patient says he feels fine and denies headache,
dizziness/lightheadedness, chest pain, SOB, abdominal pain,
nausea/vomiting, focal weakness, numbness, tingling, or 
extremity
pain.
 
Past Medical History:
PMH:
Alzheimer's disease, HTN, HLD

PSH:
resection of abdominal tumor (has midline
laparotomy scar)

 
Social History:
___
Family History:
non-contributory 
 
Physical Exam:
On Admission Physical Exam:
VS - 98.0, 62, 136/79, 16, 98% RA
GCS 15
General: NAD, appears well
HEENT: NCAT. PERRL & EOMI. No hemotypanum, nares clear, oral
cavity clear with intact dentition. No facial tenderness. Dry
mucous membranes.
Neck: trachea midline. No C-spine tenderness. 
CV: RRR, no murmurs. Palpable bilateral radial, ___ pulses.   
CHEST: non-labored effort. CTAB. No clavicular, sternal, or 
chest
wall tenderness. Absent crepitus   
ABDOMEN: soft, non-tender, non-distended. Midline laparotomy 
scar
with palm-sized reducible incisional hernia.
BACK: no vertebral tenderness or step-offs. 
EXT: warm, well-perfused, no edema
NEURO: A&Ox1. CNII-XII intact. Speech clear but confused. Moves
all extremities spontaneously with ___ strength. Sensation
intact.

Discharge Physical Exam:
VS: 97.5  70  130/80  16  99%RA
General: NAD, appears well
HEENT: NCAT. PERRL & EOMI. No facial tenderness.
Neck: trachea midline. No C-spine tenderness. 
CV: RRR, no murmurs. Palpable bilateral radial, ___ pulses.   
CHEST: non-labored effort. CTAB. No clavicular, sternal, or 
chest
wall tenderness. Absent crepitus   
ABDOMEN: soft, non-tender, non-distended. Midline laparotomy 
scar
with palm-sized reducible incisional hernia.
BACK: no vertebral tenderness or step-offs. 
EXT: warm, well-perfused, no edema
NEURO: A&Ox1. CNII-XII intact. Moves all extremities 
spontaneously with ___ strength. Sensation intact.

 
Pertinent Results:
___ 06:05PM   ___ PTT-40.6* ___
___ 06:05PM   PLT COUNT-150
___ 06:05PM   NEUTS-66.1 ___ MONOS-6.3 EOS-2.5 
BASOS-1.5* IM ___ AbsNeut-4.49 AbsLymp-1.56 AbsMono-0.43 
AbsEos-0.17 AbsBaso-0.10*
___ 06:05PM   WBC-6.8 RBC-4.87 HGB-15.2 HCT-43.5 MCV-89 
MCH-31.2 MCHC-34.9 RDW-13.9 RDWSD-44.5
___ 06:05PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:05PM   cTropnT-<0.01
___ 06:05PM   estGFR-Using this
___ 06:05PM   GLUCOSE-149* UREA N-14 CREAT-1.2 SODIUM-140 
POTASSIUM-4.3 CHLORIDE-104 TOTAL CO2-23 ANION GAP-17
___ 06:24PM   LACTATE-1.7
___ 09:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 09:30PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 09:30PM URINE  GR HOLD-HOLD
___ 09:30PM URINE  HOURS-RANDOM
___ 09:30PM URINE  HOURS-RANDOM
 
Brief Hospital Course:
___ yo male patient with Alzheimer's dementia presented to the ED 
after MVC. the was unrestrained driver in likely low-speed MVC 
with no injuries on exam or imaging though is amnestic to event 
because of his dementia.
Patient evaluated in ED by Neurology who feels he is unsafe to 
go home given his level of dementia, recent trauma, and because 
he lives alone. Admitted for observation.
During Hospitalization:

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. 

GI/GU/FEN: he was on Regular diet, which was well tolerated 
fine. Patient's intake and output were closely monitored

ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.

HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.

Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Discharge Medications:
1. Lisinopril 40 mg PO DAILY 
2. MetFORMIN (Glucophage) 850 mg PO DAILY 
3. NIFEdipine CR 30 mg PO DAILY 
4. Sertraline 100 mg PO DAILY 
5. Atenolol 50 mg PO DAILY 
6. Donepezil 10 mg PO QHS 
7. Gemfibrozil 600 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Single vehicle car accident
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___

___ were admitted to ___ after ___ were involved in an single 
car accident. ___ were seen by the Acute Care Surgery Team and 
the Neurosurgery Team. ___ were examined carefully and underwent 
diagnostic imaging  and were found to not have any injuries from 
this car accident. The Neurology Team also saw ___ and are 
recommending that ___ have an EEG done as an outpatient. ___ 
should also have an MRI brain done as outpatient to evaluate for 
silent ischemia. ___ are being discharged home with careful 
supervision by neighbors and family who will help to monitor ___ 
and ensure that ___ remain safe. 
 
Followup Instructions:
___